US08314088B2
tert-butyl 3-[(1-methylethyl)amino]-6,7-dihydropyrazino[2,3-f][1,4]oxazepine-8(9H)-carboxylate
Boc2O (1.56 g) was added to a solution of N-benzyl-N-(1-methylethyl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine (1.15 g) and triethylamine (1.10 mL) in ethyl acetate (15 mL), and the mixture was stirred at room temperature for 16 hr. The reaction mixture was neutralized with 1 N hydrochloric acid, and extracted with tetrahydrofuran. The organic layer was washed with water and saturated brine, dried over magnesium sulfate, and concentrated. The residue was purified by recrystallization (ethyl acetate-hexane) to give a colorless powder. To a solution of this in methanol (20 mL) was added 20% Pd(OH)2/C (400 mg), and the mixture was stirred under a hydrogen atmosphere at 50° C. for 3 hr. 20% Pd(OH)2/C (400 mg) was further added, and the mixture was stirred under a hydrogen atmosphere at 50° C. for 17 hr. The reaction mixture was filtered, and the filtrate was concentrated to give the title compound (1.24 g, 79%) as a pale-yellow oil.

reactant | Boc2O | 1.56 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-benzyl-N-(1-methylethyl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine | 1.15 g | C(C1=CC=CC=C1)N(C1=NC2=C(CNCCO2)N=C1)C(C)C | C17H22N4O
reactant | triethylamine | 1.10 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd(OH)2/C | 400 mg | [OH-].[OH-].[Pd+2]
catalyst | Pd(OH)2/C | 400 mg | [OH-].[OH-].[Pd+2]
product | tert-butyl 3-[(1-methylethyl)amino]-6,7-dihydropyrazino[2,3-f][1,4]oxazepine-8(9H)-carboxylate | 1.24 g, 79% | CC(C)NC1=NC2=C(CN(CCO2)C(=O)OC(C)(C)C)N=C1 | C15H24N4O3
